US06110929
3-Aminoquinoline-4-thiol (4.6 g) was added to polyphosphoric acid (80 g). Isovaleric acid (3.5 mL) was added and the reaction mixture was heated at 140° C. for 2 hours. The reaction mixture was poured into a mixture of ice and water (300 mL). The mixture was filtered through a layer of Celite® filter aid to remove some insoluble material. The filtrate was made alkaline with 50% sodium hydroxide while cooling with ice and then extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and then concentrated under vacuum to provide an oil. The oil was dissolved in dichloromethane and then placed on a layer of silica gel and eluted with 1:1 ethyl acetate:hexanes. The eluant was concentrated under vacuum to provide 2-(2-methylpropyl)thiazolo[4,5-c]quinoline.

reactant | 3-Aminoquinoline-4-thiol | 4.6 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | Isovaleric acid | 3.5 mL | C(CC(C)C)(=O)O | C5H10O2
reactant | water | 300 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-methylpropyl)thiazolo[4,5-c]quinoline | CC(CC=1SC2=C(C=NC=3C=CC=CC23)N1)C | C14H14N2S
